US07459562B2
G) 1-(4-(2-Amino-3-(2-(5-aminopyridin-2-yl)ethynyl)pyridin-4-yloxy)-3-fluorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea, dihydrochloride salt
A solution of tert-butyl 6-(2-(2-amino-4-(2-fluoro-4-(3-(2-(4-fluorophenyl)acetyl)ureido)phenoxy)pyridin-3-yl)ethynyl)pyridin-3-ylcarbamate (23 mg, 0.037 mmol) in CH2Cl2 (2 mL) and treated with TFA (0.5 mL) and stirred at RT for 1 h. The mixture was concentrated in vacuo and the crude product purified by preparative HPLC (Column B) and converted to its hydrochloride salt (11 mg, 52%) in the same manner as Step E of Example 36. 1H NMR (DMSO-d6) δ 11.05 (s, 1H), 10.62 (s, 1H), 8.05 (s, 1H), 7.97 (d, 1H, J=2.7 Hz), 7.94 (d, 1H, J=7.1 Hz), 7.82 (d, 1H, J=12.1 Hz), 7.66 (d, 1H, J=8.8 Hz), 7.45-7.45 (m, 2H), 7.35 (dd, 2H, J=8.2, 5.5 Hz), 7.20 (d, 1H, J=6.6 Hz), 7.16 (t, 2H, J=8.8 Hz), 6.24 (d, 1H, J=6.6 Hz), 3.74 (s, 2H); MS(ESI+): m/z 515.19 (M+H)+.

reactant | tert-butyl 6-(2-(2-amino-4-(2-fluoro-4-(3-(2-(4-fluorophenyl)acetyl)ureido)phenoxy)pyridin-3-yl)ethynyl)pyridin-3-ylcarbamate | 0.037 mmol, 23 mg | NC1=NC=CC(=C1C#CC1=CC=C(C=N1)NC(OC(C)(C)C)=O)OC1=C(C=C(C=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O)F | C32H28F2N6O5
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(2-Amino-3-(2-(5-aminopyridin-2-yl)ethynyl)pyridin-4-yloxy)-3-fluorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea, dihydrochloride salt | Cl.Cl.NC1=NC=CC(=C1C#CC1=NC=C(C=C1)N)OC1=C(C=C(C=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O)F | InChI=1S/C27H20F2N6O3.2ClH/c28-17-3-1-16(2-4-17)13-25(36)35-27(37)34-20-8-10-24(22(29)14-20)38-23-11-12-32-26(31)21(23)9-7-19-6-5-18(30)15-33-19;;/h1-6,8,10-12,14-15H,13,30H2,(H2,31,32)(H2,34,35,36,37);2*1H
